US08614206B2
Following the procedure for Intermediate 8 starting from 5-bromo-4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazole (150 mg, 0.55 mmol) and (R)—N-(azepan-4-yl)-2,2,2-trifluoroacetamide (115 mg, 0.55 mmol) gave (R)—N-(1-(4-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide as a colourless gum (110 mg, 53%). 1H NMR (400 MHz, CDCl3) δ 7.25 (s, 1H), 7.11 (br s, 1H), 4.54 (q, J=8.5 Hz, 2H), 4.35-4.22 (m, 1H), 3.40-3.23 (m, 2H), 3.21-3.08 (m, 2H), 2.62 (br s, 2H), 2.17-2.08 (m, 1H), 2.06-1.91 (m, 1H), 1.92-1.71 (m, 4H).

reactant | 5-bromo-4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazole | 0.55 mmol, 150 mg | BrC1=C(C=NN1CC(F)(F)F)[N+](=O)[O-] | C5H3BrF3N3O2
reactant | (R)—N-(azepan-4-yl)-2,2,2-trifluoroacetamide | 0.55 mmol, 115 mg | N1CC[C@@H](CCC1)NC(C(F)(F)F)=O | C8H13F3N2O
product | (R)—N-(1-(4-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide | 110 mg, 53% | NC=1C=NN(C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)CC(F)(F)F | C13H17F6N5O
